datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1(C)[O:62][C:11]([O-:12])=[C:10]([I+:72]C2=CC=CC=C2)[C:81](=[O:82])[O:92]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10]2([I+:72]C3=CC=CC=C3)[C:11](=[O:12])[O:62]C(C)(C)[O:92][C:81]2=[O:82])[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)[O:72][C:61]([S-:10])=[S:62].COC1=CC(CC2C(=O)N(C)C(C)(C)/[N+:23]2=[CH:22]\[CH:21]=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC>>COC1=CC(CC2C(=O)N(C)C(C)(C)[N:23]2[CH:22]=[CH:21][CH:20]([S:10][C:61](=[S:62])[O:72]C(C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC 10=20;20,21=21,22;22,23=23"
"CN1CC[C:11]([N:12]2CCOCC2)=[CH:10]C1.CO[C:24](/[N:23]=[N:22]/[C:21](C)=[CH:20]/[C:31](=[O:32])[N:33](C)C)=[O:25]>>CO[C:24](=[N:23][N:22]=[C:21](C)[CH:20]([CH:10]1CN(C)CC[C:11]1=[N+:12]1CCOCC1)[C:31](=[O:32])[N:33](C)C)[O-:25] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C(C(C2=CC=CC=C2)[C@@H]2CC[N:12]3C4=C(C=CC=C4)[S:62][C:11]3=[N:10]2)C=C1.N#C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>N#C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[C@H](C(C3=CC=CC=C3)C3=CC=CC=C3)CC[N+:12]3=[C:11]2[S:62]C2=C3C=CC=C2)[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:10]=[CH:11]/[N:12]2CCOCC2)C=C1.C1C[C:21](=[CH2:20])[C:22](=[O:23])[O:33]C1>>C1=CC=C([CH:10]([CH:11]=[N+:12]2CCOCC2)[CH2:20][C:21]2=[C:22]([O-:23])[O:33]CCC2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:11]1=[CH:10]CCC1.C[CH+:20][C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C>>C[C+:11]1CCC[CH:10]1[CH:20](C)[C:31]1=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]1C 10,11=10,20"
"N#CC1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1.O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>N#CC1=CC=C([S:61]([CH:10](Cl)[CH:20]([CH:21]=[CH:22][N:23]2C3=C(C=CC=C3)CC2C(=O)[O-])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)(=[O:62])=[O:72])C=C1 10=20;20,21=21,22;22,23=23"
C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.COC1=CC=CC=C1[P:10](C1=CC=CC=C1OC)C1=C(OC)C=CC=C1>>COC1=CC=CC=C1[P+:10](C1=CC=CC=C1OC)(C1=C(OC)C=CC=C1)[CH:20]([C:31]1=[CH:36][C:35]2=[C:34]3N(CCC[C:33]3=[CH:32]1)CCC2)[CH:51]=[CH:52][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1 10=20
"CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH:11](CC)[H:10].Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20](=[O:21])[C:41](Cl)=[C:42]1Cl>>CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH+:11]CC.Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20]([H:10])([O-:21])[C:41](Cl)=[C:42]1Cl 10,11=10,20;20,21=21"
"C[C:11](=[CH2:10])[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54.Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>C[C+:11]([CH2:10][C:20]1([C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:53]=[CH:52]2)CC[CH:32]=[CH:31]1)[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54 10,11=10,20"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](CC2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[CH:22]1.[H][C:11]1=[CH:12][CH:13]=[N+:14](CC2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23,24;24,25=25"
"CC[CH:11]([H:10])[CH2:62][Si:63](C)(C)C.CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]=[N:21]1>>CC[CH+:11][CH2:62][Si:63](C)(C)C.CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]([H:10])[N-:21]1 10,11=10,20;20,21=21"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CC2=CC=CC=C21>>C[Si:63](C)(C)[O+:12]=[C:11]1C2=CC=CC=C2C[CH:10]1[C:20]([N-:21]C1=CC=CC=C1)=[N:31]C1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1CC[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:11]1=[CH:10]C1=CC=C([N+](=O)[O-])C=C1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10](C1=CC=C([N+](=O)[O-])C=C1)[C:11]1=[N+:12](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)CC[N:63]1C1=C(C(C)(C)C)C=CC=C1C(C)(C)C)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25].C[N:12]1CC[N:62](C)[C:11]1=[NH:10]>>C[N+:12]1=[C:11]([NH:10][CH:20]([C:21](C)=[N:22][N:23]=[C:24](NC2=CC=CC=C2)[O-:25])[C:31](=[O:32])[N:33](C)C)[N:62](C)CC1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
